US06630492B1
2-Ethyl-butyric Acid 8-[2-(4-Hydroxy-6-oxo-tetrahydro-pyran-2-yl)-ethyl]-3,7-dimethyl-1,2,3,7,8,8a-hexahydro-naphthalen-1-yl Ester
To a solution of 152 mg (0.350 mmol) of 4-(tert-butyl-dimethyl-silanyloxy)-6-[2-(8-hydroxy-2,6-dimethyl-1,2,6,7,8,8a-hexahydro-naphthalen-1-yl)-ethyl]-tetrahydro-pyran-2-one in 2 ml of pyridine are added 927 mg (4.39 mmol) of 2-ethyl-butyric acid anhydride and the mixture is stirred overnight at room temperature. The reaction is quenched with saturated aqueous sodium bicarbonate. The aqueous phase is separated and extracted twice with methyl-t-butyl ether. The organic phases are combined, washed with a 10% citric acid solution and dried over sodium sulfate. The crude product is dissolved in 5 ml of THF containing 75 mg (1.3 mmol) acetic acid and 0.3 g (1 mmol) of tetrabutyl ammonium fluoride trihydrate are added. After 20 hours at room temperature the reaction is quenched with saturated aqueous sodium bicarbonate. The phases are separated and the water phase is extracted twice with ethyl acetate. The organic phases are combined, washed with brine and dried over sodium sulfate. After evaporation of the solvent, the crude product is purified by silica gel chromatography (methyl-t-butyl ether) to afford the desired product which is recrystallized from diethyl ether/hexane.

reactant | 4-(tert-butyl-dimethyl-silanyloxy)-6-[2-(8-hydroxy-2,6-dimethyl-1,2,6,7,8,8a-hexahydro-naphthalen-1-yl)-ethyl]-tetrahydro-pyran-2-one | 0.350 mmol, 152 mg | C(C)(C)(C)[Si](OC1CC(OC(C1)CCC1C(C=CC2=CC(CC(C12)O)C)C)=O)(C)C | C25H42O4Si
reactant | 2-ethyl-butyric acid anhydride | 4.39 mmol, 927 mg | C(C)C(C(=O)OC(C(CC)CC)=O)CC | C12H22O3
reactant | THF | 1.3 mmol, 5 ml, 75 mg | C1CCOC1 | C4H8O
reactant | tetrabutyl ammonium fluoride trihydrate | 1 mmol, 0.3 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 2-Ethyl-butyric Acid 8-[2-(4-Hydroxy-6-oxo-tetrahydro-pyran-2-yl)-ethyl]-3,7-dimethyl-1,2,3,7,8,8a-hexahydro-naphthalen-1-yl Ester | OC1CC(OC(C1)=O)CCC1C(C=CC2=CC(CC(C12)OC(C(CC)CC)=O)C)C | C25H38O5
